Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
Tylenol
 
Attending: ___.
 
Chief Complaint:
abdominal pain 

 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
___ with a history of hiatal hernia repair, hysterectomy and
appendectomy who presents to the hospital with a chief complaint
of nausea and abdominal pain. She indicates that these symptoms
started a few days ago and when they were not improving she came
to the hospital for further management. She reports that she has
had been vomiting. Last bowel movement was yesterday and she
indicates that she continues to pass gas. She denies having such
episodes in the past. 

 
Past Medical History:
Malaria
Arthritis
?MI per medical record but patient did not mention this

Past Surgical History:
Hiatal hernia repair in ___ at the ___
Hysterectomy ___ years ago
Appendectomy
Nasal septum repair as a child
 
Social History:
___
Family History:
Non contributory

 
Physical Exam:
On admission:
T 98.2   BP 179/74  HR 84  RR 16 96% RA 
GEN: A&O, NAD
HEENT: No scleral icterus
CV: RRR
PULM: Clear to auscultation b/l
ABD: Soft, nondistended, mildly tender to palpation throughout
mostly around umbilicus, no rebound or guarding, no palpable
masses
Ext: No ___ edema, ___ warm and well perfused

At discharge:

Gen: [X] NAD, [] AAOx3
CV: [X] RRR, [] murmur
Resp: [X] breaths unlabored, [] CTAB, [] wheezing, [] rales
Abdomen: [X] soft, [] distended, [] tender, [] rebound/guarding
Wound: [] incisions clean, dry, intact
Ext: [X] warm, [] tender, [] edema

VITALS:
___: Weight: 90 (Estimated) (Entered in Nursing IPA)

 
Pertinent Results:
___ 05:21AM BLOOD WBC-6.9 RBC-3.99 Hgb-11.3 Hct-35.3 MCV-89 
MCH-28.3 MCHC-32.0 RDW-13.9 RDWSD-45.0 Plt ___
___ 09:50AM BLOOD WBC-10.2* RBC-3.45* Hgb-9.8* Hct-31.4* 
MCV-91 MCH-28.4 MCHC-31.2* RDW-14.3 RDWSD-47.4* Plt ___
___ 04:58PM BLOOD WBC-8.4 RBC-3.90 Hgb-11.0* Hct-36.0 
MCV-92 MCH-28.2 MCHC-30.6* RDW-14.1 RDWSD-47.9* Plt ___
___ 04:58PM BLOOD Neuts-76.1* Lymphs-18.5* Monos-4.4* 
Eos-0.2* Baso-0.4 Im ___ AbsNeut-6.36* AbsLymp-1.55 
AbsMono-0.37 AbsEos-0.02* AbsBaso-0.03
___ 05:21AM BLOOD Plt ___
___ 09:50AM BLOOD Plt ___
___ 04:58PM BLOOD Plt ___
___ 04:58PM BLOOD ___ PTT-26.0 ___
___ 05:21AM BLOOD Glucose-127* UreaN-5* Creat-0.7 Na-138 
K-3.8 Cl-103 HCO3-23 AnGap-12
___ 09:50AM BLOOD Glucose-88 UreaN-12 Creat-0.8 Na-139 
K-4.7 Cl-108 HCO3-24 AnGap-7*
___ 04:58PM BLOOD Glucose-265* UreaN-18 Creat-1.1 Na-141 
K-4.4 Cl-101 HCO3-26 AnGap-14
___ 04:58PM BLOOD ALT-53* AST-31 AlkPhos-61 TotBili-0.2
___ 05:21AM BLOOD Calcium-7.6* Phos-1.4* Mg-1.7
___ 09:50AM BLOOD Calcium-7.8* Phos-2.2* Mg-1.7
___ 04:58PM BLOOD Albumin-4.1
 
Brief Hospital Course:
Ms. ___ presented to the ED on ___ and was admitted due 
to an episode of a small bowel obstruction, which was found on 
imaging. CT showed Small-bowel obstruction with an area of 
transition located within the left 
lower quadrant with a small amount of ascites. Patient was kept 
NPO, IVF were started, initially attempts at introducing an NGT 
failed. Later on, a NGT was placed putting out small amounts of 
gastric content. On ___ Ms. ___ reported passing flatus, 
abdomen looked less distended and had 2 large bowel movements. 
That same day she tolerated clears very well. On ___ she was 
advanced to a regular diet, which she tolerated well, continued 
to have bowel movements, flatus and no nausea or vomit. She was 
found ready  for discharge, instructions  were given for follow 
up and she understood all warning signs that were explained to 
her. 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. TraMADol 50 mg PO Q6H:PRN Pain - Moderate 

 
Discharge Medications:
1.  TraMADol 50 mg PO Q6H:PRN Pain - Moderate 
RX *tramadol 50 mg 1 tablet(s) by mouth every six (6) hours Disp 
#*30 Tablet Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Partial small bowel obstruction.

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to the Acute Care Surgery Service on ___ 
with abdominal pain and had a CAT scan that showed a partial 
bowel obstruction. You had a nasogastric tube placed to help 
relieve the pressure and then you had return of bowel function. 
The tube was removed and you were given a regular diet and are 
tolerating it without difficulty. 

You are now doing better, tolerating a regular diet, and having 
bowel function.

You are now ready to be discharged to home to continue your 
recovery. 

Please note the following discharge instructions:

Please call your doctor or nurse practitioner or return to the 
Emergency Department for any of the following:
*You experience new chest pain, pressure, squeezing or 
tightness.
*New or worsening cough, shortness of breath, or wheeze.
*If you are vomiting and cannot keep down fluids or your 
medications.
*You are getting dehydrated due to continued vomiting, diarrhea, 
or other reasons. Signs of dehydration include dry mouth, rapid 
heartbeat, or feeling dizzy or faint when standing.
*You see blood or dark/black material when you vomit or have a 
bowel movement.
*You experience burning when you urinate, have blood in your 
urine, or experience a discharge.
*Your pain in not improving within ___ hours or is not gone 
within 24 hours. Call or return immediately if your pain is 
getting worse or changes location or moving to your chest or 
back.
*You have shaking chills, or fever greater than 101.5 degrees 
Fahrenheit or 38 degrees Celsius.
*Any change in your symptoms, or any new symptoms that concern 
you.

Please resume all regular home medications, unless specifically 
advised not to take a particular medication. Also, please take 
any new medications as prescribed.

Please get plenty of rest, continue to ambulate several times 
per day, and drink adequate amounts of fluids.

 
Followup Instructions:
___